US07625932B2
Preparation of 1-phenyl-adamantane
Add 1-bromoadamantane (10 g, 46.5 mmols), potassium carbonate (7.7 g, 55.8 mmols) and palladium on carbon (250 mg, catalytic) in benzene and heat to 120° C. for 1 week. Cool the reaction to room temperature and filter over Celite® rinsing with EtOAc. Concentrate under reduce pressure to provide the title compound. 1H NMR (400 MHz; CDCl3) δ 7.2-7.4(m, 5H), 2.10(s, 3H), 1.92(s, 6H), 1.77(s, 6H).

reactant | 1-bromoadamantane | 46.5 mmols, 10 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | potassium carbonate | 55.8 mmols, 7.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-phenyl-adamantane | C1(=CC=CC=C1)C12CC3CC(CC(C1)C3)C2 | C16H20
